US07351719B2
122a) ethyl 2-(2-chloro-4-trifluoromethyl-phenoxy)-propionate
10.00 g (50.87 mmol) of 2-chloro-4-trifluoromethyl-phenol, 7.11 mL (55.00 mmol) of ethyl 2-bromopropionate and 7.60 g (55 mmol) of potassium carbonate in 100 mL DMF was stirred for 16 hours at 50° C. and then filtered. The filtrate was evaporated down i. vac., combined with water and exhaustively extracted with EtOAc. The combined org. extracts were washed with 10% aqueous sodium carbonate solution and water, dried over sodium sulphate and evaporated down i. vac.

reactant | 2-chloro-4-trifluoromethyl-phenol | 50.87 mmol, 10.00 g | ClC1=C(C=CC(=C1)C(F)(F)F)O | C7H4ClF3O
reactant | ethyl 2-bromopropionate | 55.00 mmol, 7.11 mL | BrC(C(=O)OCC)C | C5H9BrO2
reactant | potassium carbonate | 55 mmol, 7.60 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | ethyl 2-(2-chloro-4-trifluoromethyl-phenoxy)-propionate | ClC1=C(OC(C(=O)OCC)C)C=CC(=C1)C(F)(F)F | C12H12ClF3O3
